US06794397B2
4-Trifluoromethyl-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide
A mixture of 4-(trifluoromethyl)pyridine-3-carboxylic acid (100 mg, 0.52 mmol), 4-ethoxy-2-nitroaniline (94.7 mg, 0.52 mmol), and 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride (199.3 mg, 1.04 mmol) in THF (5 ml) was refluxed overnight. The mixture was cooled to room temperature, diluted with 100 ml of hexane:ethyl acetate (1:1), wash with 2 N NaOH (50 ml), water (50 ml), saturated aqueous NaCl (50 ml), dried over anhydrous sodium sulfate and evaporated. The crude product was purified by column chromatography using hexane:ethyl acetate (2:1) to give 17.3 mg (9.4% yield) of the title compound as yellow solid. 1H NMR (CDCl3): 10.48 (s, 1H), 9.01-8.96 (m, 2H), 8.74 (d, J=9.3 Hz, 1H), 7.74-7.69 (m, 2H), 7.32 (dd, J=3.0, 9.3 Hz, 1H), 4.13 (q, J=6.9 Hz, 2H), 1.48 (t, J=6.9 Hz, 3H).

reactant | 4-(trifluoromethyl)pyridine-3-carboxylic acid | 0.52 mmol, 100 mg | FC(C1=C(C=NC=C1)C(=O)O)(F)F | C7H4F3NO2
reactant | 4-ethoxy-2-nitroaniline | 0.52 mmol, 94.7 mg | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride | 1.04 mmol, 199.3 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | hexane ethyl acetate | 100 ml | CCCCCC.C(C)(=O)OCC
product | 4-Trifluoromethyl-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide | 17.3 mg, 9.4% yield | FC(C1=C(C=NC=C1)C(=O)NC1=C(C=C(C=C1)OCC)[N+](=O)[O-])(F)F | C15H12F3N3O4
